US05032583
N-(trans-4-Hydroxycyclohexyl)-2-methyladenosine
A mixture of 6-chloro-2-methyl-9-(β-D-ribofuranosyl)-9H-purine (902 mg), trans-4-aminocyclohexanol hydrochloride (1.14 g) and DEA (1.94 g) in isopropanol (50 ml) was heated at reflux with stirring under nitrogen for 17 h. The resulting cooled reaction mixture was adsorbed onto silica (Merck 9385) and purified by column chromatography on silica (Merck 9385) eluting with System B (10:1 then 8:1) to give the title compound (0.9 g) as a solid.

reactant | 6-chloro-2-methyl-9-(β-D-ribofuranosyl)-9H-purine | 902 mg | ClC1=C2N=CN(C2=NC(=N1)C)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO | C11H13ClN4O4
reactant | trans-4-aminocyclohexanol hydrochloride | 1.14 g | Cl.N[C@@H]1CC[C@H](CC1)O
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | N-(trans-4-Hydroxycyclohexyl)-2-methyladenosine | 0.9 g | O[C@@H]1CC[C@H](CC1)NC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=C(N1)C | C17H25N5O5
